US07037935B2
In analogy to the esterification described in Example 2b), the (RS)-1-(4-hydroxy-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid is reacted with methanol in presence of sulfuric acid to yield the (RS)-1-(4-hydroxy-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester as a light brown solid; MS: m/e=250 (M+H)+.

reactant | (RS)-1-(4-hydroxy-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid | OC1=C(C=C(C=C1)N1CC(CC1=O)C(=O)O)C | C12H13NO4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | (RS)-1-(4-hydroxy-3-methyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC(=C(C=C1)O)C | C13H15NO4
